US08802704B2
Step 3: tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-ethylbenzyl}-N-methylglycinate
A solution of tert-butyl N-(4-cyano-2-ethylbenzyl)-N-methylglycinate (570 mg, 1.98 mmol) and 50% aqueous hydroxylamine (0.6 mL, 10 mmol) in ethanol (10 mL) was heated at 80° C. for 18 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was passed through a hydrophobic frit and evaporated in vacuo to afford the title compound (658 mg, quantitative). 1H NMR (CDCl3, 400 MHz) δ 7.46 (1H, s), 7.39 (2H, s), 4.85 (2H, br s), 3.73 (2H, s), 3.16 (2H, s), 2.73 (2H, q, J=7.6 Hz), 2.37 (3H, s), 1.47 (9H, s), 1.25-1.19 (3H, m).

reactant | tert-butyl N-(4-cyano-2-ethylbenzyl)-N-methylglycinate | 1.98 mmol, 570 mg | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)CC | C17H24N2O2
reactant | hydroxylamine | 10 mmol, 0.6 mL | NO | H3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-ethylbenzyl}-N-methylglycinate | 658 mg | NC(C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)CC)=NO | C17H27N3O3
